US07205309B2
A suspension of 0.9 g (3.38 mmol) of 7-benzyloxy-2-methyl-1H-quinazolin-4-one in POCl3 (4.6 ml, 50 mmol) were heated at reflux for 1.5 h. The reaction mixture was then concentrated in vacuo, the residue was partitioned between CH2Cl2 and cold diluted NaHCO3 (pH 7–8). The layers were separated and the aqueous layer twice extracted with CH2Cl2. The combined organic layers washed with saturated NaHCO3, brine and then dried over Mg2SO4. The solvent was removed in vacuo give 0.45 g (47.2%) of crude 7-benzyloxy-4-chloro-2-methyl-quinazoline as a dark red waxy solid which was used directly in the next step without further purification. Rf: 0.9 (CH2Cl2/MeOH: 9/1; starting material with Rf: 0.7).

reactant | 7-benzyloxy-2-methyl-1H-quinazolin-4-one | 3.38 mmol, 0.9 g | C(C1=CC=CC=C1)OC1=CC=C2C(N=C(NC2=C1)C)=O | C16H14N2O2
reactant | POCl3 | 50 mmol, 4.6 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 7-benzyloxy-4-chloro-2-methyl-quinazoline | 0.45 g, 47.2% | C(C1=CC=CC=C1)OC1=CC=C2C(=NC(=NC2=C1)C)Cl | C16H13ClN2O
